US05292766
C. Preparation of mixture of (2aS,4R)-,(2aR,4S)-6-acetyl-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole
A solution of 0.5 g (1.8 mmol) of 6-cyano-4-(di-n-propylamino-1,2,2a,3,4,5-hexahydrobenz[cd]indole prepared as in Part B hereof in 75 mL of benzene was treated with 5 mL of 2.0 M methylmagnesium bromide in diethyl ether. The reaction mixture was refluxed for 2 days. The reaction mixture was cooled and excess Grignard reagent was decomposed with addition of saturated aqueous NH4Cl solution. The benzene layer was separated as washed once with saturated aqueous NaCl solution. The organic solution was evaporated to an oil. The oil was dissolved in 25 mL of 5 N HCl and the solution was stirred at room temperature for 30 minutes. The acidic solution was made alkaline with the addition of excess concentrated aqueous NH4OH solution. The basic mixture was extracted twice with CH2Cl2. The combined organic solution was washed once with saturated aqueous NaCl solution and dried over MgSO4. The CH2Cl2 solution was evaporated to yield 0.5 g of an oil. Chromatography of this oil over silica gel with ethyl acetate as eluent gave 0.4 g (75%) of product as an oil, which upon standing solidified, m.p. 76°-77° C.

reactant | di-n-propylamino-1,2,2a,3,4,5-hexahydrobenz[cd]indole | C(CC)N(CCC)N1CC2C=3C(=CC=CC13)CCC2 | C17H26N2
reactant | methylmagnesium bromide | 2.0 M, 5 mL | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
product | (2aR,4S)-6-acetyl-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 0.5 g | C(C)(=O)C1=C2C=3[C@H](CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C19H28N2O
